US04816466
In 2 ml of acetic acid is dissolved 0.35 g of N-[N-[(R)-5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-N-(indan-2-yl)glycine tert-butyl ester, and 2 ml of 30% hydrogen bromide-acetic acid solution is added to the solution, followed by standing at room temperature for 1 hour. 50 ml of ethyl ether is added to the reaction mixture, followed by shaking, and the supernatant layer is removed by decantation. The colorless precipitate is rinsed with ethyl ether and dried under reduced pressure to give 0.3 g of N-[N-[(R)-1-ethoxycarbonyl-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2-yl)glycine.dihydrobromide as a colorless powder.

reactant | N-[N-[(R)-5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-N-(indan-2-yl)glycine tert-butyl ester | 0.35 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N[C@H](CCCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC)C)=O)=O | C39H55N3O7
reactant | hydrogen bromide acetic acid | 2 ml | Br.C(C)(=O)O
reactant | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | N-[N-[(R)-1-ethoxycarbonyl-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2-yl)glycine.dihydrobromide | 0.3 g | Br.Br.C(C)OC(=O)[C@@H](CCCCC1CCNCC1)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1 | InChI=1S/C27H41N3O5.2BrH/c1-3-35-27(34)24(11-7-4-8-20-12-14-28-15-13-20)29-19(2)26(33)30(18-25(31)32)23-16-21-9-5-6-10-22(21)17-23;;/h5-6,9-10,19-20,23-24,28-29H,3-4,7-8,11-18H2,1-2H3,(H,31,32);2*1H/t19-,24+;;/m0../s1
